US06476051B2
A. 3-[1-(t-butoxycarbonyl)-1,2,3,6-tetrahydro-4-pyridinyl]-5-cyanoindole (VIII)
A stirred solution of 5-cyanoindole (10.0 g, 70.3 mmol), t-butyl-4-oxo-1-piperidinecarboxylate (15.4 g, 77.3 mmol), and pyrrolidine (14.7 mL, 175.7 mmol) in ethanol (200 mL) was heated at reflux for 20 hours then cooled to 0° C. The resulting precipitate was collected by vacuum filtration and rinsed with cold ethanol and hexanes to afford the product as a white solid (15.4 g, 68%).

reactant | 5-cyanoindole | 70.3 mmol, 10.0 g | C(#N)C=1C=C2C=CNC2=CC1 | C9H6N2
reactant | t-butyl-4-oxo-1-piperidinecarboxylate | 77.3 mmol, 15.4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | pyrrolidine | 175.7 mmol, 14.7 mL | N1CCCC1 | C4H9N
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 3-[1-(t-butoxycarbonyl)-1,2,3,6-tetrahydro-4-pyridinyl]-5-cyanoindole | 15.4 g, 68% | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CNC2=CC=C(C=C12)C#N | C19H21N3O2
